US07977331B1
To methyl 4-benzyloxy-12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate (745 mg, 1.55 mmol) was added 25% hydrogen bromide-acetic acid solution (5 ml), and the mixture was stirred at room temperature for 30 min. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed successively with saturated aqueous sodium hydrogen carbonate solution and saturated brine and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure. Hexane:diisopropy ether (3:1) solution was added to the obtained residue and the precipitated solid was collected by filtration. The solid was washed with hexane:diisopropy ether (3:1) solution. The obtained solid was dried in vacuo to give methyl 12-cyclohexyl-4-hydroxy-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate (470 mg, yield 78%).

reactant | methyl 4-benzyloxy-12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate | 1.55 mmol, 745 mg | C(C1=CC=CC=C1)OC1=CC=CC=2C3=C(C4=C(N3CCOC21)C=C(C=C4)C(=O)OC)C4CCCCC4 | C31H31NO4
reactant | hydrogen bromide acetic acid | 5 ml | Br.C(C)(=O)O
solvent | Water | O | H2O
product | methyl 12-cyclohexyl-4-hydroxy-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate | 470 mg, yield 78% | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC=C4O)C=C(C=C2)C(=O)OC | C24H25NO4
